Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
primary hyperaldosteronism
 
Major Surgical or Invasive Procedure:
laparoscopic left adrenalectomy

 
History of Present Illness:
Mr. ___ is a ___ man with PMH significant for dilated 
cardiomyopathy, morbid obesity, OSA, HTN, and other 
comorbidities as listed below who presents for evaluation of 
primary hyperaldosteronism.  

Briefly, patient has known hypertension of duration he estimates 
at approximately ___ years.  He has been on antihypertensive 
therapy for an estimated ___ years, with very limited duration of 
effect per patient's report.  He is currently on 5 
antihypertensive agents but recently had an episode of 
presyncope with a fall and headstrike (CT negative for acute 
injury), and
torsemide dose was reduced.  Hyperaldosteronism was diagnosed in 
___ ___ at ___ was concerned for 
refractory nature of HTN to his 5 current antihypertensive 
agents. 

24 hour urine aldosterone in ___ was elevated and consistent 
with diagnosis. CT imaging from ___ did not show evidence 
of adrenal adenoma. Patient was on aldosterone antagonist but 
this was held for adrenal venous sampling at ___ which was 
undertaken on ___. Results were consistent with left
aldosterone producing adenoma.  

Patient was referred to Endocrine Surgery for consideration of
left adrenalectomy. 

 
Past Medical History:
PMH:  
- Essential hypertension
- Morbid obesity with body mass index of 40.0-49.9
- Chronic systolic heart failure
- Cardiomyopathy, nonischemic, dilated; etiology: unclear,
non-ischemic proven by cardiac cath
- Primary hyperaldosteronism
- History of nonadherence to medical treatment
- Lymphedema of bilateral lower extremities
- Eczema
- Prediabetes
- Gastroesophageal reflux disease with esophagitis
- OSA (obstructive sleep apnea), occasionally uses CPAP
- Hypercholesterolemia
- Vitamin D deficiency
- Gout
- Medullary sponge kidney

PSH:  
- Left ankle scope ___
- ORIF left ankle ___ in ___, with ___ surgery in ___ needed 
for
cleanup at ___
- Bilateral adrenal vein sampling ___

 
Social History:
___
Family History:
FamHx:  
- Mother with obesity
- Father with hypertension
- Sister with obesity s/p gastric bypass, gestational DM
- Maternal grandmother with alcoholism, cirrhosis, liver cancer
- Maternal grandfather with morbid obesity, diabetes, cancer
- Paternal uncle w/ CAD/PVD
- Maternal aunt w/ cardiomyopathy

 
Physical Exam:
VS: Refer to flowsheet
GEN: AOx3 WN, WD in NAD
HEENT: NCAT, EOMI, anicteric
CV: RRR
PULM: unlabored breathing with symmetric chest rise, no 
respiratory distress
ABD: soft, NT, ND, no mass, no hernia
Wound: lap sites w/gauze tegaderm, some serosang staining
EXT: WWP, no CCE, no tenderness, 2+ B/L ___

 
Brief Hospital Course:
Mr. ___ is a ___ who presented to pre-op holding at ___ on 
___ for hyperaldosteronism, now s/p laparoscopic left 
adrenalectomy. He tolerated the procedure well.(Please see 
operative note for further details). After a brief and 
uneventful stay in the PACU, the patient was transferred to the 
floor for further post-operative management.
Neuro: Pain was well controlled on Tylenol and oxycodone for 
breakthrough pain.
CV: Patient postop was hypertensive, his home meds were resumed. 
vital signs were routinely monitored.
Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. He had good pulmonary 
toileting, as early ambulation.
GI: The patient diet was advanced as tolerated. 
GU: The patient had a foley catheter was removed at the end of 
the case. Patient voided spontaneously.  Urine output was 
monitored as indicated.
ID: The patient was closely monitored for signs and symptoms of 
infection and fever, of which there was none.
Heme: The patient received subcutaneous heparin and ___ dyne 
boots during this stay. He was encouraged to get up and ambulate 
as early as possible. 
On POD#1, the patient was discharged to home. At discharge, he 
was tolerating a regular diet, passing flatus, voiding, and 
ambulating independently. He will follow-up in the clinic in 4 
weeks. This information was communicated to the patient directly 
prior to discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. CARVedilol 1.5 mg PO DAILY 
3. amLODIPine 5 mg PO DAILY 
4. HydrALAZINE 37.5 mg PO TID 
5. Torsemide 40 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Ibuprofen 400 mg PO Q6H:PRN Pain - Mild  
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Patient is NPO or unable to 
tolerate PO
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0 
4.  amLODIPine 5 mg PO DAILY  
5.  CARVedilol 37.5 mg PO DAILY  
6.  HydrALAZINE 37.5 mg PO TID  
7.  Lisinopril 40 mg PO DAILY  
8.  Torsemide 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
hyperaldosteronism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to ___ following your laparoscopic left 
adrenalectomy. You have been recovering well and are ready to be 
discharged home. The following is a summary of discharge 
instructions. 

Activity
• Continue to walk several times a day as tolerated.
• Do not drive for at least 72 hours after surgery or while you 
are taking pain medicines or if you are unable to perform normal 
daily activities
• Avoid heavy-lifting (no more than 5 lbs) for six weeks
Diet
• You may return to your usual diet
Incision Care
• Please leave the Steri-strips in place on your incision and 
allow them to fall off on their own. If they have not fallen off 
in ___ days, you may remove them yourself
• You may shower 48 hours after surgery but please do not swim 
or soak in a tub for at least 4 weeks. After you are done 
showering, just pat your incisions dry. If it is draining clear 
fluid, you can cover it with a dry dressing (such as gauze). 
Medications
• Please resume your pre-hospital medications. If you were 
taking medicines for high blood pressure, some of these might 
have been adjusted, so please make sure to follow up with your 
primary care physician, ___, cardiologist about any 
changes. You should follow-up with your primary care physician 
regarding new prescriptions and refills
• We will supply you with a prescription for a mild narcotic 
pain medication. You are not required to take it. If you do take 
it, please do not drive or drink alcohol as these in combination 
may make you drowsy. Alternatively, you may take Tylenol 
(acetaminophen) or ibuprofen (e.g. Advil) as needed
• If you are taking narcotics, you may also want to take a stool 
softener, such as over-the-counter Colace or Senna, to avoid 
constipation. Stay hydrated by drinking some extra water
When to Call a Doctor
• For any non-urgent questions, call your doctor’s office 
• Call your doctor or go to the Emergency Room if you have fever 
(temperature greater than 100.5), chills, lightheadedness, 
shortness of breath, difficulty breathing, nausea, vomiting, if 
you notice signs of wound infection (redness, tenderness, or 
drainage from the incision), or if you have any other urgent 
concerns.

Best Wishes,
Your ___ Care Team

 
Followup Instructions:
___